US07858796B2
(174) 3-{1-[(3-hydroxypropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide
Following the general procedure of example 159, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide (23.0 mg, 0.050 mmol), 50% NaOH in water (1 mL), and sodium iodide (5.0 mg) were reacted to give the title compound (15.0 mg, 68%).

reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 0.050 mmol, 23.0 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C23H26ClN3O3S
reactant | NaOH | [OH-].[Na+]
reactant | sodium iodide | 5.0 mg | [I-].[Na+]
solvent | water | 1 mL | O | H2O
product | 3-{1-[(3-hydroxypropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 15.0 mg, 68% | OCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C23H27N3O4S
